US06489344B1
{6-[(2-{[4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-yl]amino}ethyl)-amino]-3-nitro(2-pyridyl)}dimethylamine was prepared from [4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-ylethylamine and 6-chloro-2-dimethylamino-3-nitro pyridine in accordance with the procedure described above for the preparation of [4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-yl]{2-[(6-methoxy-5-nitro(2-pyridyl))-amino]ethyl}amine.

reactant | 4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-ylethylamine | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1C=1NC=CN1)CCN | C15H13Cl2N5
reactant | 6-chloro-2-dimethylamino-3-nitro pyridine | ClC1=CC=C(C(=N1)N(C)C)[N+](=O)[O-] | C7H8ClN3O2
reactant | [4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-yl]{2-[(6-methoxy-5-nitro(2-pyridyl))-amino]ethyl}amine | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1C=1NC=CN1)NCCNC1=NC(=C(C=C1)[N+](=O)[O-])OC | C21H18Cl2N8O3
product | {6-[(2-{[4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-yl]amino}ethyl)-amino]-3-nitro(2-pyridyl)}dimethylamine | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1C=1NC=CN1)NCCNC1=CC=C(C(=N1)N(C)C)[N+](=O)[O-] | C22H21Cl2N9O2
